US08222419B2
Production of 4-(2-Bromo-6H-dibenz[b,e]oxepin-11-ylidene)-1-methylpiperidine
A TFA (150 mL) solution of 2-bromo-11-(1-methylpiperidin-4-yl)-6,11-dihydrodibenz[b,e]oxepin-11-ol (21.7 g, 56.0 mmol) was stirred overnight at room temperature. The solvent was distilled off under a reduced pressure, a 10% aqueous potassium carbonate solution was then added to the residue to neutralize, and the product was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, the solvent was then distilled off under a reduced pressure, and the reside was purified by column chromatography (chloroform-methanol=9:1), to give 15.1 g (73%) of the captioned compound in the form of crystals.

reactant | 2-bromo-11-(1-methylpiperidin-4-yl)-6,11-dihydrodibenz[b,e]oxepin-11-ol | 56.0 mmol, 21.7 g | BrC1=CC2=C(OCC3=C(C2(O)C2CCN(CC2)C)C=CC=C3)C=C1 | C20H22BrNO2
solvent | TFA | 150 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(2-Bromo-6H-dibenz[b,e]oxepin-11-ylidene)-1-methylpiperidine | 15.1 g, 73% | BrC1=CC2=C(OCC3=C(C2=C2CCN(CC2)C)C=CC=C3)C=C1 | C20H20BrNO
